US08017630B2
2-(4-Dimethylamino-4-phenylcyclohexylidene)-N-(3-phenyl-propyl)acetamide hydrochloride (Example 6)
2-(4-Dimethylamino-4-phenylcyclohexylidene)-N-(3-phenyl-propyl)acetamide (203 mg, 0.536 mmol) was dissolved in ethyl methyl ketone (12 ml) with gentle heating and chlorotrimethylsilane (0.101 ml, 0.8 mmol) was added. After 2 h it was possible to isolate the product as a colourless solid in a yield of 95% (211 mg) with an m.p. of 225-230° C.

reactant | 2-(4-Dimethylamino-4-phenylcyclohexylidene)-N-(3-phenyl-propyl)acetamide | 0.536 mmol, 203 mg | CN(C1(CCC(CC1)=CC(=O)NCCCC1=CC=CC=C1)C1=CC=CC=C1)C | C25H32N2O
reactant | chlorotrimethylsilane | 0.8 mmol, 0.101 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | ethyl methyl ketone | 12 ml | CC(=O)CC | C4H8O
product | 2-(4-Dimethylamino-4-phenylcyclohexylidene)-N-(3-phenyl-propyl)acetamide hydrochloride | yield of 95% | Cl.CN(C1(CCC(CC1)=CC(=O)NCCCC1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C25H32N2O.ClH/c1-27(2)25(23-13-7-4-8-14-23)17-15-22(16-18-25)20-24(28)26-19-9-12-21-10-5-3-6-11-21;/h3-8,10-11,13-14,20H,9,12,15-19H2,1-2H3,(H,26,28);1H
